### PR TITLE
[Merged by Bors] - feat: composition of a multilinear map and linear maps is multilinear

### PR DESCRIPTION
**Pull request by urkud**
Co-authored-by: @hrmacbeth

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Multilinear.lean [hunk 1]
```diff
@@ -1191,12 +1191,49 @@ theorem compContinuousLinearMapL_apply (g : ContinuousMultilinearMap 𝕜 E₁ G
...
+continuous-multilinear in `f₁, ..., fₙ`. -/
+noncomputable def compContinuousLinearMapContinuousMultilinear :
+    ContinuousMultilinearMap 𝕜 (fun i ↦ E i →L[𝕜] E₁ i)
+      ((ContinuousMultilinearMap 𝕜 E₁ G) →L[𝕜] ContinuousMultilinearMap 𝕜 E G) := by
+  refine @MultilinearMap.mkContinuous 𝕜 ι (fun i ↦ E i →L[𝕜] E₁ i)
+    ((ContinuousMultilinearMap 𝕜 E₁ G) →L[𝕜] ContinuousMultilinearMap 𝕜 E G) _ _
+    (fun _ ↦ ContinuousLinearMap.toNormedAddCommGroup)
+    (fun _ ↦ ContinuousLinearMap.toNormedSpace) _ _
+    (compContinuousLinearMapMultilinear 𝕜 E E₁ G) 1 fun f ↦ ?_
+  simpa using norm_compContinuousLinearMapL_le G f
```
Comment (PatrickMassot) [inline Mathlib/Analysis/NormedSpace/Multilinear.lean:1234]:
```suggestion
  @MultilinearMap.mkContinuous 𝕜 ι (fun i ↦ E i →L[𝕜] E₁ i)
    ((ContinuousMultilinearMap 𝕜 E₁ G) →L[𝕜] ContinuousMultilinearMap 𝕜 E G) _ _
    (fun _ ↦ ContinuousLinearMap.toNormedAddCommGroup)
    (fun _ ↦ ContinuousLinearMap.toNormedSpace) _ _
    (compContinuousLinearMapMultilinear 𝕜 E E₁ G) 1 
    fun f ↦ by simpa using norm_compContinuousLinearMapL_le G f
```
I think this is less scary because it makes it really clear that tactics are only used to get a proof, not data.

**Review by PatrickMassot — COMMENTED** [review]
bors d+

**Comment by urkud** [comment]
bors merge
